US07863283B2
(RS)-S-[3-({[4-(Cyclobutylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide (72 mg, 0.16 mmol) with cyclobutylamine (16 μL, 0.19 mmol) and chromatographic purification (silica gel, amino column, hexane, dichloromethane/methanol: 0→5% methanol) gives the desired product in 74% yield (56 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide | 0.16 mmol, 72 mg | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)C)N=CN(C)C | C22H26N4O5S
reactant | cyclobutylamine | 0.19 mmol, 16 μL | C1(CCC1)N | C4H9N
reactant | hexane | CCCCCC | C6H14
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-[3-({[4-(Cyclobutylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 74% yield | C1(CCC1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C | C24H28N4O5S
